* A quadrupel CD4093B ngspice model
.subckt CD4093Bc 1 2 3 4 5 6 Vss 8 9 10 11 12 13 Vdd
XU1A 1 2 3 Vdd Vss CD4093B
XU1B 6 5 4 Vdd Vss CD4093B
XU1C 8 9 10 Vdd Vss CD4093B
XU1D 13 12 11 Vdd Vss CD4093B
.ends
**********
*SRC=CD4093B;CD4093B;CMOS;CD4xxx;Nand Schmitt Trig, MOS
*SYM=CD4093B
.SUBCKT CD4093B 3   2   13  9   4
*Connections    In1 In2 Out Vdd Vss
*pinout 14PIN 1 2 3;5 6 4;8 9 10;12 13 11:VCC=14 GND=7
X1 15 1 9 4 INV4093
X2 1 17 9 4 INV4093 
X3 1 13 9 4 INV4093 
M12 7 11 4 4 CD4093N
M13 15 12 7 8 CD4093N
M16 5 11 17 4 CD4093N
M17 15 12 5 8 CD4093N
M18 15 11 9 9 CD4093P
M19 15 12 9 9 CD4093P
M20 15 12 17 9 CD4093P
M21 15 11 17 9 CD4093P
R1 3 12 .1
R2 2 11 .1
.MODEL CD4093N NMOS (LEVEL=1 VTO=3.5 KP=2.9M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=20.2 RS=184.1 IS=31.2F PB=.8 MJ=.46
+ CBD=15.9P CBS=19P CGSO=23.4N CGDO=19.5N CGBO=32.1N)
.MODEL CD4093P PMOS (LEVEL=1 VTO=-3.0 KP=2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=28.2 RS=145.2 IS=31.2F PB=.8 MJ=.46
+ CBD=15.9P CBS=19P CGSO=23.4N CGDO=19.5N CGBO=32.1N)
.SUBCKT INV4093 6  1   4   3
*Connections    In Out Vdd Vss
M2 1 6 3 3 CD469BN
M3 1 6 4 4 CD469BP
.MODEL CD469BN NMOS (LEVEL=1 VTO=3.5 KP=2.9M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=20.2 RS=184.1 IS=31.2F PB=.8 MJ=.46
+ CBD=15.9P CBS=19P CGSO=23.4N CGDO=19.5N CGBO=32.1N)
.MODEL CD469BP PMOS (LEVEL=1 VTO=-3.0 KP=2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=28.2 RS=145.2 IS=31.2F PB=.8 MJ=.46
+ CBD=15.9P CBS=19P CGSO=23.4N CGDO=19.5N CGBO=32.1N)
.ENDS INV4093
.ENDS
**********

